US08912186B2
1) 3-(4-Phenoxyphenyl)-1-phenylprop-2-en-1-one
Synthesised according to example 1.59.1 using 4-phenoxybenzaldehyde (3.0 g, 15.1 mmol) and 1-(naphthalen-2-yl)ethanone (2.58 g, 15.1 mmol); pale yellow solid; yield: 4.70 g (89%);

reactant | 4-phenoxybenzaldehyde | 15.1 mmol, 3.0 g | O(C1=CC=CC=C1)C1=CC=C(C=O)C=C1 | C13H10O2
reactant | 1-(naphthalen-2-yl)ethanone | 15.1 mmol, 2.58 g | C1=C(C=CC2=CC=CC=C12)C(C)=O | C12H10O
product | 3-(4-Phenoxyphenyl)-1-phenylprop-2-en-1-one | O(C1=CC=CC=C1)C1=CC=C(C=C1)C=CC(=O)C1=CC=CC=C1 | C21H16O2
